US07122672B2
Ethyl 2-(6-quinolinyloxy)-2-(ethoxy)acetate (3.68 g) was added to a solution of sodium hydroxide (0.589 g) in water (10 ml) and methanol (30 ml) and stirred for 5 minutes. The solution was evaporated under reduced pressure, water added and the aqueous phase was washed with ethyl acetate. The aqueous phase was acidified with hydrochloric acid and extracted with ethyl acetate. The extracts were combined, dried over magnesium sulphate and evaporated under reduced pressure to give 2-(6-quinolinyloxy)-2-(ethoxy)acetic acid (1.47 g) as a cream solid.

reactant | Ethyl 2-(6-quinolinyloxy)-2-(ethoxy)acetate | 3.68 g | N1=CC=CC2=CC(=CC=C12)OC(C(=O)OCC)OCC | C15H17NO4
reactant | sodium hydroxide | 0.589 g | [OH-].[Na+]
solvent | water | 10 ml | O | H2O
solvent | methanol | 30 ml | CO | CH4O
product | 2-(6-quinolinyloxy)-2-(ethoxy)acetic acid | 1.47 g | N1=CC=CC2=CC(=CC=C12)OC(C(=O)O)OCC | C13H13NO4
